US07223767B2
A mixture of 2-methyl-2-phenylcyclohexanone (4.7 g, 25 mmol) from Preparation 3 above, and sodium hydride (1.1 g of 60% dispersion in mineral oil, 28 mmol) in 15 mL of dimethyl carbonate and 75 mL of benzene, was heated under reflux for 4 h. The mixture was cooled to room temperature and poured into dilute ice-cold aqueous HCl. The organic layer was washed with brine, dried (sodium sulfate) and evaporated to afford 6.36 g of 3-methyl-2-oxo-3-phenyl-cyclohexanecarboxylic acid methyl ester as an oil.

reactant | 2-methyl-2-phenylcyclohexanone | 25 mmol, 4.7 g | CC1(C(CCCC1)=O)C1=CC=CC=C1 | C13H16O
reactant | sodium hydride | 28 mmol, 1.1 g | [H-].[Na+]
reactant | dimethyl carbonate | 15 mL | C(OC)(OC)=O | C3H6O3
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
product | 3-methyl-2-oxo-3-phenyl-cyclohexanecarboxylic acid methyl ester | 6.36 g | COC(=O)C1C(C(CCC1)(C1=CC=CC=C1)C)=O | C15H18O3
